US06127354
(2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid (4.52 g, 13.7 mmol) was dissolved in N,N-dimethylformamide (6 ml) and dichloromethane (6 ml). 1-Hydroxy-7-azabenzotriazole (1.86 g, 13.7 mmol) was added as a solid. The solution was cooled to 0° C. N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (2.63 g, 13.7 mmol) was added. The solution was stirred for 15 min at 0° C. A solution of N-methyl-N-(2-(2-thienyl)ethyl)amine in dichloromethane (6 ml) was added. Ethyldiisopropylamine (2.37 ml, 13.7 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (200 ml). The mixture was washed with 1 N hydrochloric acid (150 ml) and saturated sodium hydrogen carbonate solution (150 ml). It was dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silcia (100 g), using ethyl acetate/heptane (1:2) as eluent to give 5.57 g of N-methyl-N-((1R)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butyl ester.

reactant | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid | 13.7 mmol, 4.52 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 13.7 mmol, 1.86 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 13.7 mmol, 2.63 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methyl-N-(2-(2-thienyl)ethyl)amine | CNCCC=1SC=CC1 | C7H11NS
reactant | Ethyldiisopropylamine | 13.7 mmol, 2.37 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-methyl-N-((1R)-1-(N-methyl-N-(2-(2-thienyl)ethyl)carbamoyl)-2-(2-naphthyl)ethyl)carbamic acid tert-butyl ester | 5.57 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N(CCC=1SC=CC1)C)=O)C)=O | C26H32N2O3S
